US06809110B2
In analogy to the procedure described in example 10 d], [rac]-2-ethoxy-3-{2-methyl-4-[2-(5-methyl-2-phenyl-thiazol-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester was treated with LiOH to obtain [rac]-2-ethoxy-3-{2-methyl-4-[2-(5-methyl-2-phenyl-thiazol-4-yl)-ethoxy]-phenyl}-propionic acid as colorless solid.

reactant | [rac]-2-ethoxy-3-{2-methyl-4-[2-(5-methyl-2-phenyl-thiazol-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCCC=1N=C(SC1C)C1=CC=CC=C1)C)OCC)=O | C26H31NO4S
reactant | LiOH | [Li+].[OH-]
product | [rac]-2-ethoxy-3-{2-methyl-4-[2-(5-methyl-2-phenyl-thiazol-4-yl)-ethoxy]-phenyl}-propionic acid | C(C)OC(C(=O)O)CC1=C(C=C(C=C1)OCCC=1N=C(SC1C)C1=CC=CC=C1)C | C24H27NO4S
